US07932252B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(methoxy-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide
A suspension of 4-tert-butyl-N-[4-chloro-2-(chloro-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide (113 mg, 0.25 mmol) and potassium carbonate (69 mg, 0.5 mmol) in anhydrous methanol was heated at 60° C. overnight, the solid residue was then removed by filtration and product was purified by preparative HPLC. MS: (M+H)=445.

reactant | 4-tert-butyl-N-[4-chloro-2-(chloro-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide | 0.25 mmol, 113 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(C1=CC=NC=C1)Cl | C22H22Cl2N2O2S
reactant | potassium carbonate | 0.5 mmol, 69 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | 4-tert-Butyl-N-[4-chloro-2-(methoxy-pyridin-4-yl-methyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(C1=CC=NC=C1)OC | C23H25ClN2O3S
